US05821239
4-[[(Dipropylamino)methylene]amino]-3-pyridinol N,N-dimethylcarbamate
A mixture prepared from 4-[[(dipropylamino)methylene]amino-3-pyridinol (3.22 g), triethylamine (3.15 g), dimethylcarbamyl chloride (2.01 mL) and tetrahydrofuran (100 mL) was refluxed for 1 hour, cooled, poured directly onto a silica column and eluted successively with ethyl acetate and 5% Et3N/ethyl acetate. The eluate was concentrated and the solid was recrystallized from diethyl ether to yield 2.99 g of product, m.p. 84°-85° C.

reactant | [(dipropylamino)methylene]amino-3-pyridinol | 3.22 g | C(CC)N(CCC)C=NC1=NC=CC=C1O | C12H19N3O
reactant | triethylamine | 3.15 g | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamyl chloride | 2.01 mL | CN(C(=O)Cl)C | C3H6ClNO
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-[[(Dipropylamino)methylene]amino]-3-pyridinol N,N-dimethylcarbamate | 2.99 g | CN(C(=O)OC=1C=NC=CC1N=CN(CCC)CCC)C | C15H24N4O2
